US08247429B2
N-[2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]propanamide
To a mixture of 2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride (45.5 mg, 0.191 mmol) and triethylamine (206 μL, 1.48 mmol) in tetrahydrofuran (1.5 mL) was added propionic anhydride (56.9 μL, 0.444 mmol) under ice-cooling, and the mixture was stirred at room temperature for 15 min. Water (50 μL) was added, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) and recrystallization (ethyl acetate/diisopropyl ether) to give the title compound (23.3 mg, yield 47%).

reactant | 2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride | 0.191 mmol, 45.5 mg | Cl.C=1C=NN2C1C1=C(C=C2)CCC1CCN
reactant | triethylamine | 1.48 mmol, 206 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.444 mmol, 56.9 μL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | Water | 50 μL | O | H2O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | N-[2-(8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]propanamide | 23.3 mg, yield 47% | C=1C=NN2C1C1=C(C=C2)CCC1CCNC(CC)=O | C15H19N3O
